US08420655B2
A reaction mixture of crude (4-bromo-2-nitro-phenyl)-(1,1-dimethyl-propyl)-amine (600 mg, 2.09 mmol), 2-aminopyrimidine-5-boronic acid pinacol ester (330 mg, 1.49 mmol), Pd(PPh3)4 (160 mg), K2CO3 (600 mg, 4.34 mmol) in DMF (7.0 mL) and H2O (2.0 mL) is heated under microwave conditions at 100° C. for 1 hour. The reaction mixture is allowed to cool to room temperature, diluted with EtOAc (100 mL), washed with H2O (75 mL×2), dried with Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 50% EtOAc in heptane as the eluent to afford 5-[4-(1,1-dimethyl-propylamino)-3-nitro-phenyl]-pyrimidin-2-ylamine (370 mg, 82%).

reactant | (4-bromo-2-nitro-phenyl)-(1,1-dimethyl-propyl)-amine | 2.09 mmol, 600 mg | BrC1=CC(=C(C=C1)NC(CC)(C)C)[N+](=O)[O-] | C11H15BrN2O2
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 1.49 mmol, 330 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | K2CO3 | 4.34 mmol, 600 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 7.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2.0 mL | O | H2O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 160 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-[4-(1,1-dimethyl-propylamino)-3-nitro-phenyl]-pyrimidin-2-ylamine | 370 mg, 82% | CC(CC)(C)NC1=C(C=C(C=C1)C=1C=NC(=NC1)N)[N+](=O)[O-] | C15H19N5O2
